US05998412
To a solution of 4-benzyloxycarbonyl-1-{4-[5-fluoro-1-(2-trimethylsilylethanesulfonyl)indol-3-yl]piperidine-1-sulfonyl}piperazine-2-(RS)-carboxylic acid (288 mg, 0.40 mmol), [prepared as described in Step 6 above] in methylene chloride (5 ml) at 0° C. were added a few drops of DMF and oxalyl chloride (89 ml, 1.0 mmol). The reaction mixture was warmed to RT over 1 h, and stirring was continued for an additional 14 h. The reaction mixture was concentrated in vacuo, redissolved in methylene chloride (5 ml) and cooled to 0° C. N,O-bis-trimethylsilyl hydroxylamine (0.304 ml, 1.42 mmol) added, the reaction was warmed to RT, stirred for 3 h, and then recooled to 0° C. After adding methanol (3 ml), the mixture was stirred for an additional 30 min., and then concentrated in vacuo. The residue was partitioned between methylene chloride (50 ml) and aqueous 2.4 M HCl (10 ml), the organic layer was separated and washed with saturated aqueous sodium bicarbonate, dried over MgSO4, and concentrated in vacuo to afford N-hydroxy-4-benzyloxycarbonyl-1-{4-[5-fluoro-1-(2-trimethylsilylethanesulfonyl)-indol-3-yl]-piperidine-1-sulfonyl}piperazine-2-(RS)-carboxamide as a yellow foam (250 mg, 86%). The residue was used without further purification.

reactant | 4-benzyloxycarbonyl-1-{4-[5-fluoro-1-(2-trimethylsilylethanesulfonyl)indol-3-yl]piperidine-1-sulfonyl}piperazine-2-(RS)-carboxylic acid | 0.40 mmol, 288 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)S(=O)(=O)N1CCC(CC1)C1=CN(C2=CC=C(C=C12)F)S(=O)(=O)CC[Si](C)(C)C)C(=O)O | C31H41FN4O8S2Si
reactant | oxalyl chloride | 1.0 mmol, 89 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-bis-trimethylsilyl hydroxylamine | 1.42 mmol, 0.304 ml | C[Si](NO[Si](C)(C)C)(C)C | C6H19NOSi2
reactant | methanol | 3 ml | CO | CH4O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | N-hydroxy-4-benzyloxycarbonyl-1-{4-[5-fluoro-1-(2-trimethylsilylethanesulfonyl)-indol-3-yl]-piperidine-1-sulfonyl}piperazine-2-(RS)-carboxamide | 250 mg, 86% | ONC(=O)C1N(CCN(C1)C(=O)OCC1=CC=CC=C1)S(=O)(=O)N1CCC(CC1)C1=CN(C2=CC=C(C=C12)F)S(=O)(=O)CC[Si](C)(C)C | C31H42FN5O8S2Si
